US08580781B2
2. Preparation of 3-(6-oxo-1-{3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-yl]benzyl}-1,6-dihydropyridazin-3-yl)benzonitrile
35.57 g of 3-{1-[3-(5-bromopyrimidin-2-yl)benzyl]-6-oxo-1,6-dihydropyridazin-3-yl}benzonitrile (0.08 mol), 26.43 g of bis(pinacolato)diboron (0.104 mol) and 23.75 g of potassium acetate (0.240 mol) are suspended in 165 ml of abs. DMF under an N2 atmosphere in a 500 ml three-necked flask and heated at 70° C. with stirring, 1.686 g of (PPh3)2PdCl2 (2.4 mmol) are subsequently added, and the reaction batch is stirred at 70° C. for 6 h, during which a dark-brown solution forms. For work-up, the reaction mixture is diluted with 600 ml of water with stirring at RT, and the resultant precipitate is filtered off with suction. The resultant precipitate is taken up in 500 ml of dichloromethane, shaken 2× with 200 ml of water, dried over sodium sulfate and evaporated to dryness. The residue is slurried in 200 ml of acetone, filtered off with suction and washed with a little acetone, m.p. 203-5° C.

reactant | 3-{1-[3-(5-bromopyrimidin-2-yl)benzyl]-6-oxo-1,6-dihydropyridazin-3-yl}benzonitrile | 0.08 mol, 35.57 g | BrC=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C=2C=C(C#N)C=CC2)C=CC1 | C22H14BrN5O
reactant | bis(pinacolato)diboron | 0.104 mol, 26.43 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.240 mol, 23.75 g | C(C)(=O)[O-].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | 600 ml | O | H2O
catalyst | (PPh3)2PdCl2 | 2.4 mmol, 1.686 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(6-oxo-1-{3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-yl]benzyl}-1,6-dihydropyridazin-3-yl)benzonitrile | O=C1C=CC(=NN1CC1=CC(=CC=C1)C1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C)C=1C=C(C#N)C=CC1 | C28H26BN5O3
